US07084145B2
3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid
Sodium hydroxide solution (5M, 24.8 ml, 0.12 mol) was added drop wise to a solution of 3,4,5,6-tetrahydro-2H-[1,2′]-bipyridinyl-4-carboxylic acid ethyl ester (5.8 g, 24 mmol)(see reference Farmaco, 1993, 48(10), 1439) in 1,4-dioxane (100 ml). The mixture was stirred at room temperature for 72 hours and then evaporated under reduced pressure. The residue was purified by ion exchange chromatography on Dowex® 50 WX8 resin using methanol and ammonium hydroxide solution in water as eluant (gradient from 0:0:100 to 0:5:95 to 5:5:90). The material obtained was triturated with diethyl ether to give the title compound (4.42 g).

reactant | Sodium hydroxide | 0.12 mol, 5M, 24.8 ml | [OH-].[Na+]
reactant | 3,4,5,6-tetrahydro-2H-[1,2′]-bipyridinyl-4-carboxylic acid ethyl ester | 24 mmol, 5.8 g | C(C)OC(=O)C1CCN(CC1)C1=NC=CC=C1 | C13H18N2O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid | 4.42 g | N1(CCC(CC1)C(=O)O)C1=NC=CC=C1 | C11H14N2O2
